US08026275B2
Preparation of 4-hydroxy-3,5-diisopropylphenyl-(4-(methylsulfonyl)phenyl)methanone (21)
To a solution of 4-methylsulfonylbenzoic acid (4.08 g, 24 mmol) and oxalyl chloride (3.9 mL, 44 mmol) in DCM (70 mL), three drops of DMF was added at 0° C. The reaction mixture was stirred at room temperature for 3 hours and concentrated on a rotavapor. The residue was dissolved in 20 mL of DCM and was added into a suspension of 2,6-diisopropylphenol (2.12 g, 11.9 mmol) and aluminum chloride (1.6 g, 12 mmol in 50 mL of DCM. After stirring for 14 hour, the reaction mixture was poured into 100 mL of ice-water and extracted with diisopropyl ether (2×100 mL). The organic layer was washed with 1 N HCl, saturated aqueous NaHCO3, and brine, and was dried over anhydrous MgSO4. After filtration, the solution was condensed on a rotary evaporator. The crude product was suspended in 100 mL of methanol and 30 mL of water. The resultant suspension was treated with an excess amount of solid NaOH for 16 h at room temperature and acidified by 1 N HCl to pH of 4. The reaction mixture was extracted with ethyl acetate (2×100 mL). After washing with saturated aqueous NaHCO3 and brine, the organic layer was dried over anhydrous Na2SO4 and filtered. The solution was concentrated and the residue was purified by flash silica gel chromatography to afford the desired product as a yellow solid (550 mg, Yield 13%). 1H NMR (500 MHz, CDCl3, δ): 1.27 (s, 6H), 1.29 (s, 6H), 3.12 (s, 3H), 3.18 (hept, J=6.9 Hz, 2H), 5.40 (br s, 1H), 7.57 (s, 2H), 7.90 (dd, J=6.6, 1.7 Hz, 2H), 8.06 (dd, J=6.5, 1.7 Hz, 2H); Anal. Calcd for (C19H21FO2+H)+: 361. Found: 361.

reactant | 4-methylsulfonylbenzoic acid | 24 mmol, 4.08 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | oxalyl chloride | 44 mmol, 3.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,6-diisopropylphenol | 11.9 mmol, 2.12 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-3,5-diisopropylphenyl-(4-(methylsulfonyl)phenyl)methanone | 550 mg, Yield 13% | OC1=C(C=C(C=C1C(C)C)C(=O)C1=CC=C(C=C1)S(=O)(=O)C)C(C)C | C20H24O4S
